US04652567
1,4-Dihydrobenzo[c]-1,5-naphthyridin-2(3H)-one
To 300 g of vigorously stirred polyphosphoric acid warmed to 115° C., 10 g of 1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime was added. The mixture was held at this bath temperature for 10 minutes. The internal temperature rose to 135°-140° C. The mixture was then poured into 1500 ml of ice water, and the mixture was basified with 50% NaOH to about pH=8 and the resultant crystalline precipitate was collected to give 7.14 g of crude product Chromatography on a silica gel column, using ethyl acetate gave 4.8 g of pure product, m.p. 225° C.

reactant | 1,10a-dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione oxime | 10 g | C1CC(N2CC=3C=CC=CC3C(C21)=O)=NO | C12H12N2O2
reactant | NaOH | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-Dihydrobenzo[c]-1,5-naphthyridin-2(3H)-one | 4.8 g | N1C=2C3=C(C=NC2CCC1=O)C=CC=C3 | C12H10N2O
